US08012983B2
Intermediate 7: 4-((1S,4S)-5-Isopropyl-2,5-diaza-bicyclo[2.2.1]hept-2-yl)-phenylamine
4-Fluoronitrophenyl (4.00 g, 28.348 mmol), DiPEA (5.89 mL, 60.667 mmol, 2.14 equiv.) and (1S,4S)-2-BOC-2,5-diazabicyclo[2.2.1]heptane (6.02 g, 30.333 mmol, 1.07 equiv.) are mixed in acetonitrile (20 mL). The resulting solution is heated to reflux overnight, after which full conversion has occurred. The solvent is removed under vacuum, and the solid yellow residue is stirred in cyclohexane (50 mL) for 0.25 h, then allowed to settle, the supernatant is discarded, and the process is repeated twice. On the third time, the solid is separated by filtration, allowed to dry under suction, to afford the title compound clean as a yellow solid (8.8 g).

reactant | DiPEA | 60.667 mmol, 5.89 mL, 2.14 equiv. | CCN(C(C)C)C(C)C | C8H19N
reactant | (1S,4S)-2-BOC-2,5-diazabicyclo[2.2.1]heptane | 30.333 mmol, 6.02 g, 1.07 equiv. | C(=O)(OC(C)(C)C)N1[C@@H]2CN[C@H](C1)C2 | C10H18N2O2
reactant | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 4-((1S,4S)-5-Isopropyl-2,5-diaza-bicyclo[2.2.1]hept-2-yl)-phenylamine | C(C)(C)N1[C@@H]2CN([C@H](C1)C2)C2=CC=C(C=C2)N | C14H21N3
